US06967196B1
4-Chloro-N-(2,5-dichlorophenyl)-N-[1-(S)-[1-[(1,1-dimethylethoxy)carbonyl]pyrrolidin-2-yl]ethyl]benzenesulfonamide
To a solution of 4-chloro-N-(2,5-dichlorophenyl)benzenesulfonamide (0.100 g, 0.298 mmol), triphenylphosphine (0.230 g, 0.890 mmol), α-methyl-[N-(tert-butoxy carbonyl)]-L-prolinol, (isomer B, 0.200 g, 0.890 mmol) in toluene (2 mL) was added diisopropylazodicarboxylate (0.180 g, 0.890 mmol) dropwise at 0° C. under nitrogen atmosphere. The resulting mixture was allowed to warn to 22° C. with stirring. After 18 h the mixture was washed with sat NaHCO3 (4 mL), brine (4 mL) and extracted with ethyl ether (4 mL). The organic extract was dried over Na2SO4 and filtered. Silica gel chromatography (1:4 ethyl acetate/hexanes) of the concentrate afforded the title compound (0.095 g, yield=60%), MS (ESI) 532.

reactant | 4-chloro-N-(2,5-dichlorophenyl)benzenesulfonamide | 0.298 mmol, 0.100 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)Cl | C12H8Cl3NO2S
reactant | triphenylphosphine | 0.890 mmol, 0.230 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.890 mmol, 0.180 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-N-(2,5-dichlorophenyl)-N-[1-(S)-[1-[(1,1-dimethylethoxy)carbonyl]pyrrolidin-2-yl]ethyl]benzenesulfonamide | 0.095 g, yield=60% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C)C1N(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC(=C1)Cl)Cl | C23H27Cl3N2O4S
